US04281000
2-Methyl-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid ethyl ester
A mixture of 9.09 g. of 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one and 2.54 g. of ethyl 3-amino-5-methylpyrazole-4-carboxylate in 25 ml. of glacial acetic acid is refluxed for 16 hours. The solvent is removed and the residue in dichloromethane is washed with saturated sodium bicarbonate solution. The dichloromethane solution is passed through a column of hydrous magnesium silicate. The eluent is concentrated and hexane added to give 3.1 g. of the product of the example, m.p. 145°-146° C.

reactant | 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one | CN(C=CC(=O)C=1C=NC=CC1)C | C10H12N2O
reactant | ethyl 3-amino-5-methylpyrazole-4-carboxylate | NC1=NNC(=C1C(=O)OCC)C | C7H11N3O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Methyl-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NN2C1N=CC=C2C=2C=NC=CC2)C | C15H14N4O2
